US08610345B2
A mixed solution of 7 g of 1-bromopyrene, 6 g of trimethylboroxin, 12 g of cesium carbonate, 2 g of PdCl2(dppf).CH2Cl2, 80 ml of dimethylformamide and 8 ml of distilled water was heated and stirred under a nitrogen gas stream at 80° C. for 7 hours. The solution was cooled to room temperature and 50 ml of water was poured into the solution, followed by filtration. The resulting solid was purified by silica gel column chromatography and then vacuum-dried to obtain 4.4 g of 1-methylpyrene.

reactant | 1-bromopyrene | 7 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | trimethylboroxin | 6 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | cesium carbonate | 12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | 2 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 50 ml | O | H2O
solvent | water | 8 ml | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-methylpyrene | 4.4 g | CC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H12
